US06858764B2
2-bromo-9,9′-spirobifluorene
In a two-liter flask having four openings equipped with a stirrer, a thermometer, a dropping funnel, and a reflux condenser, respectively, 1 L of water, three drops of a surfactant, 10.7 g (0.0395 mol) of anhydrous iron (III) chloride, and 253 g (0.8 mol) of 9,9′-spirobifluorene were placed and stirred to mix. By adding 102 g (0.638 mol) of bromine into the mixture, a reaction was started. After the reaction had been conducted at room temperature for 3 hours, unreacted bromine was decomposed with an aqueous solution of sodium hydrogen sulfite. The reaction product, which was a solid, was filtered and washed with water. Thus, 298 g of a crude product was obtained. The crude product was recrystallized using dioxane, thus resulting in 245 g (0.62 mol, yield of 78%) of a white solid, which is the target product. This product was subjected to gas chromatography and the purity of the product was 99%.

reactant | 9,9′-spirobifluorene | 0.8 mol, 253 g | C1=CC=CC=2C3=CC=CC=C3C3(C12)C1=CC=CC=C1C=1C=CC=CC13 | C25H16
reactant | bromine | 0.638 mol, 102 g | BrBr | Br2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
catalyst | iron (III) chloride | 0.0395 mol, 10.7 g | [Fe](Cl)(Cl)Cl
solvent | water | 1 L | O | H2O
product | 2-bromo-9,9′-spirobifluorene | 0.62 mol, 245 g, yield of 78% | BrC1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC=CC13 | C25H15Br
